US05041455
A. 3-(4-(3-hexynyloxy)-1,2,5-oxadiazol-3-yl)pyridine
To a solution of 3-hexyn-1-ol (980 mg, 10 mmol) and sodium hydride (240 mg, 10 mmol) in dry tetrahydrofuran was added a solution of 3-(4-chloro-1,2,5-oxadiazol-3-yl)pyridine (450 mg, 2.5 mmol) in dry tetrahydrofuran. The reaction mixture was stirred at room temperature for 2 h. Water was added and the mixture was extracted with ether. The ether phase was dried and evaporated to give the title compound.

reactant | 3-hexyn-1-ol | 10 mmol, 980 mg | C(CC#CCC)O | C6H10O
reactant | sodium hydride | 10 mmol, 240 mg | [H-].[Na+]
reactant | 3-(4-chloro-1,2,5-oxadiazol-3-yl)pyridine | 2.5 mmol, 450 mg | ClC=1C(=NON1)C=1C=NC=CC1 | C7H4ClN3O
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-(3-hexynyloxy)-1,2,5-oxadiazol-3-yl)pyridine | C(CC#CCC)OC=1C(=NON1)C=1C=NC=CC1 | C13H13N3O2
